.subckt buf1 in out vdd
mp1  tmp in  vdd vdd   pmos l=45n w=4u
mn1  tmp in  0   0     nmos l=45n w=2.74u
mp2  out tmp  vdd vdd   pmos l=45n w=4u
mn2  out tmp  0   0     nmos l=45n w=2.74u
.ends buf1
